US05066680
A solution of N-(4-chloro-2-butynyl)-2-hydroxy-2,2-diphenylacetamide (1.0 g) and 70% aqueous ethylamine (4.32 g) in methanol (3 ml) was stirred at room temperature for 30 minutes and then evaporated in vacuo. The residue was dissolved in chloroform (30 ml) and the solution was washed with sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol (5:1) as an eluent to give N-(4-ethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide (0.8 g), which was treated with 4N methanolic hydrogen chloride to give N-(4-ethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide hydrochloride (0.65 g).

reactant | N-(4-chloro-2-butynyl)-2-hydroxy-2,2-diphenylacetamide | 1.0 g | ClCC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C18H16ClNO2
reactant | ethylamine | 4.32 g | C(C)N | C2H7N
solvent | methanol | 3 ml | CO | CH4O
product | N-(4-ethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide | 0.8 g | C(C)NCC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C20H22N2O2
